### PR TITLE
[Merged by Bors] - feat: port RingTheory.Polynomial.Bernstein

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Polynomial/Bernstein.lean [hunk 1]
```diff
@@ -0,0 +1,419 @@
...
+and the fact that for `ν : fin (n+1)` these are linearly independent over `ℚ`.
+
+We prove the basic identities
+* `(Finset.range (n + 1)).sum (λ ν, bernsteinPolynomial R n ν) = 1`
+* `(Finset.range (n + 1)).sum (λ ν, ν • bernsteinPolynomial R n ν) = n • X`
+* `(Finset.range (n + 1)).sum (λ ν, (ν * (ν-1)) • bernsteinPolynomial R n ν) = (n * (n-1)) • X^2`
+
+## Notes
+
+See also `Analysis.SpecialFunctions.Bernstein`, which defines the Bernstein approximations
```
Comment (semorrison) [inline Mathlib/RingTheory/Polynomial/Bernstein.lean:35]:
```suggestion
See also `Mathlib.Analysis.SpecialFunctions.Bernstein`, which defines the Bernstein approximations
```

File: Mathlib/RingTheory/Polynomial/Bernstein.lean [hunk 2]
```diff
@@ -0,0 +1,419 @@
...
+Although the coefficients are integers, it is convenient to work over an arbitrary commutative ring.
+-/
+def bernsteinPolynomial (n ν : ℕ) : R[X] :=
+  (choose n ν : R[X]) * X ^ ν * (1 - X) ^ (n - ν)
+#align bernstein_polynomial bernsteinPolynomial
+
+example : bernsteinPolynomial ℤ 3 2 = 3 * X ^ 2 - 3 * X ^ 3 := by
+  -- Porting note: `norm_num` ignores arguments
+  simp [bernsteinPolynomial, choose]
+  norm_num [bernsteinPolynomial, choose]
```
Comment (semorrison) [inline Mathlib/RingTheory/Polynomial/Bernstein.lean:61]:
```suggestion
  -- Porting note: Originally was just `norm_num [bernsteinPolynomial, choose]; ring`,
  -- but `norm_num` ignores arguments
  simp [bernsteinPolynomial, choose]
  norm_num
```

File: Mathlib/RingTheory/Polynomial/Bernstein.lean [hunk 3]
```diff
@@ -0,0 +1,419 @@
...
+    exact_mod_cast congr_arg (fun m : ℕ => (m : R[X])) (Nat.succ_mul_choose_eq n ν).symm
+  · rw [← tsub_add_eq_tsub_tsub, ← mul_assoc, ← mul_assoc]; congr 1
+    rw [mul_comm, ← mul_assoc, ← mul_assoc]; congr 1
+    norm_cast
+    congr 1
+    convert (Nat.choose_mul_succ_eq n (ν + 1)).symm using 1
+    · rw [mul_comm, Nat.succ_sub_succ_eq_sub]
+      -- Porting note: was
+      -- convert mul_comm _ _ using 2
+      -- simp
```
Comment (semorrison) [inline Mathlib/RingTheory/Polynomial/Bernstein.lean:135]:
```suggestion
    · -- Porting note: was
      -- convert mul_comm _ _ using 2
      -- simp
      rw [mul_comm, Nat.succ_sub_succ_eq_sub]
```
Not essential, but I find it less confusing when the porting notes are consistently *before* the material they discuss.

**Comment by semorrison** [comment]
bors d+
